US20010053776A1
f) 4-(3-Hydroxypropyl)-5′-(4-methylthiazol-2-yl)-1′H-[3,2′;3′,4″]terpyridin-6′-one
1-{4- [3-(tert-Butyldimethylsilanyloxy)propyl]pyridin-3-yl}-2-(pyridin-4-yl)ethanone (750 mg, 2.02 mmol) was dissolved in DMF dimethyl acetal (10 ml) and stirred for 18 hours at room temperature. The DMF dimethyl acetal was evaporated and azeotroped with dry toluene (2×5 ml). The oil thus produced was dissolved in dry DMF (30 ml) and 4-methylthiazole-2-acetamide (350 mg, 2.22 mmol) and sodium hydride (320 mg, 60% dispersion in mineral oil, 8.08 mmol) were added followed by dry methanol (80 μl, 2.02 mmol) and the reaction heated to 50° C. After stirring at 50° C. for 150 minutes the reaction was allowed to cool to room temperature and poured into aqueous hydrochloric acid (10 ml). The mixture was neutralised after 90 seconds by addition of NaHCO3 (sat. aq.) and extracted with EtOAc (4×50 ml). The combined organic extracts were washed with water (3×30 ml), brine (40 ml), dried (MgSO4) and evaporated to 5 ml volume at which point a pale solid precipitated. The solid was collected by filtration and washed with EtOAc to afford the title compound (310 mg, 41%) as a pale green amorphous solid: 1H NMR (400 MHz, d6-DMSO) 6 1.36-1.48 (m, 1H), 1.58-1.67 (m, 11), 2.30-2.38 (m, 1H), 2.41-2.52 (m, 1H), 2.45 (s, 3H), 3.28-3.32 (m, 2H), 4.48 (br m, 1H), 7.10-7.11 (m, 2H), 7.30 (d, J=5, 1H), 7.36 (s, 1H), 8.41-8.43 (m, 2H), 8.48 (s, 1H), 8.51 (d, J=5, 1H), 8.53 (s, 1H). m/z (ES+) 405 (M++H).

reactant | 1-{4- [3-(tert-Butyldimethylsilanyloxy)propyl]pyridin-3-yl}-2-(pyridin-4-yl)ethanone | 2.02 mmol, 750 mg | [Si](C)(C)(C(C)(C)C)OCCCC1=C(C=NC=C1)C(CC1=CC=NC=C1)=O | C21H30N2O2Si
reactant | 4-methylthiazole-2-acetamide | 2.22 mmol, 350 mg | CC=1N=C(SC1)CC(=O)N | C6H8N2OS
reactant | sodium hydride | 8.08 mmol, 320 mg | [H-].[Na+]
reactant | methanol | 2.02 mmol, 80 μl | CO | CH4O
reactant | hydrochloric acid | 10 ml | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF dimethyl acetal | 10 ml | CN(C)C(OC)OC | C5H13NO2
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 4-(3-Hydroxypropyl)-5′-(4-methylthiazol-2-yl)-1′H-[3,2′;3′,4″]terpyridin-6′-one | 310 mg, 41% | OCCCC1=C(C=NC=C1)C=1NC(C(=CC1C1=CC=NC=C1)C=1SC=C(N1)C)=O | C22H20N4O2S
